US03997536
4.7 G. of 4-chloro-5-cyano-2-(4-n--propoxyphenyl)-pyrimidine are reacted in 230 ml. of 50% dioxane with 20.0 g. of pre-treated zinc dust and worked up after the reaction in a manner analogous to that described in Example 13. There is obtained 5-cyano-2-(4-n-propoxyphenyl)-pyrimidine as colorless crystals having a melting point of 146.2°-146.6° C, which on cooling are nematic (monotropic) at 137.0° C.

reactant | 4-chloro-5-cyano-2-(4-n--propoxyphenyl)-pyrimidine | ClC1=NC(=NC=C1C#N)C1=CC=C(C=C1)OCCC | C14H12ClN3O
catalyst | zinc | [Zn] | Zn
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-cyano-2-(4-n-propoxyphenyl)-pyrimidine | C(#N)C=1C=NC(=NC1)C1=CC=C(C=C1)OCCC | C14H13N3O
